US05942600
Methyl 4-(4-iodo-1-butyl)phenylacetate (21.28 g, 0.064 mol) was dissolved in methanol (160 mL). Lithium hydroxide (6.72 g, 0.16 mol) and water (10 mL) were added, and the reaction mixture was stirred for 18 hours at room temperature. The solvents were removed under reduced pressure, the residue was treated with ethyl acetate (600 mL), and the organic solution was washed with 1N HCl (3×300 mL), brine (3×300 mL), dried over MgSO4, and filtered. The filtrate was concentrated and dried in vacuo to give 17.5 g (85.9 %) of 4-(4-iodo-1-butyl)phenylacetic acid as a yellow solid. 1H NMR (300 MHz, CD3OD) δ: 1.68-1.84 (m, 4H), 2.61 (t, 2H, J=7.35 Hz), 3.24 (t, 2H, J=6.75 Hz), 3.55 (s, 2H), 7.16 (ab quartet, 4H, J=8.26 Hz). FAB-MS m/z=319 (M+H); HRMS calcd for C12H16O2I (M+H) 319.0194, found 319.0208.

reactant | Methyl 4-(4-iodo-1-butyl)phenylacetate | 0.064 mol, 21.28 g | ICCCCC1=CC=C(C=C1)CC(=O)OC | C13H17IO2
reactant | Lithium hydroxide | 0.16 mol, 6.72 g | [OH-].[Li+]
reactant | water | 10 mL | O | H2O
solvent | methanol | 160 mL | CO | CH4O
product | 4-(4-iodo-1-butyl)phenylacetic acid | 17.5 g, 85.9 % | ICCCCC1=CC=C(C=C1)CC(=O)O | C12H15IO2
